US08497305B2
1. Synthesis of Racemic 1-[1-(4-chlorophenyl)cyclobutyl]-3-methylbutylamine (II)
As described in article (Chinese Journal of Pharmaceuticals, 2001, 32(8): 337-339), p-chlorobenzyl cyanide was condensed with 1,3-dibromopropane, cycled to give cyclobutyl intermediate, and then through Grignard reaction and reduction reaction to give title compound (56.2% yield).

reactant | p-chlorobenzyl cyanide | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | Racemic 1-[1-(4-chlorophenyl)cyclobutyl]-3-methylbutylamine | 56.2% yield | ClC1=CC=C(C=C1)C1(CCC1)C(CC(C)C)N | C15H22ClN
